US20010007855A1
N-Benzyloxycarbonyl-L-glutamine (17).
Glutamine (1.84 g. 12.62 mmol) was dissolved in 1N NaOH (12.58 mL) and the solution was cooled to 0° C. and stirred for 30 min, when Na2CO3 (3.30 g) and benzyl chloroformate (4.38 mL) in dioxane (19.30 mL) were gradually added, in equal portions. Stirring continued at 0° C. for 1 h, then the solution was allowed to stir overnight at room temperature and was extracted with ethyl ether (2×20 mL). The aqueous solution was acidified with 2N HCl to pH 5 and extracted with ethyl acetate (3×50 mL), which was dried over sodium sulfate, and evaporated to give an oil which crystallized overnight. Recrystallization of the crude product gave a white crystalline material (3.07 g. 87%); FABMS 319.1 (M+K), 281.1 (M+H).

reactant | Glutamine | 12.62 mmol, 1.84 g | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | Na2CO3 | 3.30 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzyl chloroformate | 4.38 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | NaOH | 1N, 12.58 mL | [OH-].[Na+]
solvent | dioxane | 19.30 mL | O1CCOCC1 | C4H8O2
product | N-Benzyloxycarbonyl-L-glutamine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(N)=O)C(=O)O | C13H16N2O5
